US06218404B1
3-Benzylpiperidine hydrochloride.
To a solution of 3-benzylpyridine (10 g, 59.8 mmol) in methanol (150 mL) were added PtO2(350 mg) and HCl conc. (5 mL). This heterogeneous solution was hydrogenated in a Parr hydrogenator at 20-25psi at 25° C. and for 24 hrs then filtered through a celite pad and concentrated in vacuum. The crude compound was purified by crystallization from acetone/diethyl ether to give a white solid (8.5 g, 68%). 1H-NMR (DMSO): 1.05-1.2 (m, 1H); 1.5-1.75 (m, 3H); 1.87-2.05 (m, 1H); 2.4-2.55 (m, 3H); 2.57-2.75 (m, 1H); 2.982 (d, J=11.7, 1H); 3.97 (d, J=12.0, 1H); 7.136 (d, J=7.0, 2H); 7.184 (d, J=7.0, 1H), 7.296 (t, J=7.2, 2H); 8.89 (bs, 1H); 9.15 (bs, 1H).

reactant | 3-benzylpyridine | 59.8 mmol, 10 g | C(C1=CC=CC=C1)C=1C=NC=CC1 | C12H11N
reactant | HCl | 5 mL | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
catalyst | PtO2 | 350 mg | O=[Pt]=O
product | 3-Benzylpiperidine hydrochloride | 8.5 g, 68% | Cl.C(C1=CC=CC=C1)C1CNCCC1 | InChI=1S/C12H17N.ClH/c1-2-5-11(6-3-1)9-12-7-4-8-13-10-12;/h1-3,5-6,12-13H,4,7-10H2;1H
